US08664226B2
4′-{[4-butyl-1-(5-hydroxypyrimidin-2-yl)-2-methyl-6-oxo-1,6-dihydropyrimidin-5-yl]methyl}biphenyl-2-carbonitrile (50 mg, 0.111 mmol), 2-(5-ethylpyridin-2-yl)ethanol (16.8 mg, 0.111 mmol) and triphenylphosphine (44 mg, 0.167 mmol) were dried for 3 hrs in vacuo, purged with argon, added tetrahydrofuran (1 mL) and diethyl azodicarboxylic acid (2.2 mol/L toluene solution, 76 μL, 0.167 mmol), and stirred at room temperature for 2 hrs. The reaction mixture was added water and extracted with ethyl acetate. The organic layer was combined, washed with water and brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. The resulting residues were subjected to silica gel column chromatography (hexane/ethyl acetate) to obtain 4′-{[4-butyl-1-{5-[2-(5-ethylpyridin-2-yl)ethoxy]pyrimidin-2-yl}-2-methyl-6-oxo-1,6-dihydropyrimidin-5-yl}methyl]biphenyl-2-carbonitrile (49 mg, 76%).

reactant | 4′-{[4-butyl-1-(5-hydroxypyrimidin-2-yl)-2-methyl-6-oxo-1,6-dihydropyrimidin-5-yl]methyl}biphenyl-2-carbonitrile | 0.111 mmol, 50 mg | C(CCC)C=1N=C(N(C(C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)=O)C1=NC=C(C=N1)O)C | C27H25N5O2
reactant | 2-(5-ethylpyridin-2-yl)ethanol | 0.111 mmol, 16.8 mg | C(C)C=1C=CC(=NC1)CCO | C9H13NO
reactant | triphenylphosphine | 0.167 mmol, 44 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylic acid | 0.167 mmol, 2.2 mol/L, 76 μL | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
solvent | water | O | H2O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 4′-{[4-butyl-1-{5-[2-(5-ethylpyridin-2-yl)ethoxy]pyrimidin-2-yl}-2-methyl-6-oxo-1,6-dihydropyrimidin-5-yl}methyl]biphenyl-2-carbonitrile | 49 mg, 76% | C(CCC)C=1N=C(N(C(C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)=O)C1=NC=C(C=N1)OCCC1=NC=C(C=C1)CC)C | C36H36N6O2
